US08871754B2
Methyl 3-(4-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyridine-5-carboxylate
To a solution of methyl isonicotinate (500 μL, 4.23 mmol, 1.0 equiv.) in 2 mL DMF was added O-(2,4-dinitrophenyl)hydroxylamine (1 g, 5.02 mmol, 1.2 equiv.) and the resulting solution was allowed to stir overnight at 40° C., during which time the reaction became heterogeneous. The mixture was allowed to cool to rt before being diluted with 10 mL DMF, then treated with 4-ethynyl-α,α,α-trifluorotoluene (863 μL, 5.29 mmol, 1.25 equiv.) and potassium carbonate (877 mg, 6.35 mmol, 1.5 equiv.). The mixture was allowed to stir overnight at 100° C. The resulting mixture was allowed to cool to rt, and then the solvent was removed under reduced pressure. The residue was diluted with water and the aqueous layer was extracted with EtOAc five times. The combined EtOAc extracts were washed once with water, once with brine, and then dried with MgSO4, filtered, and the solvent removed under reduced pressure. The material was purified by silica gel chromatography, eluting with hexanes/EtOAc (Rf=0.26 in 5:1 hexanes/EtOAc) to give 335 mg (25% yield) I-1. 1H NMR (400 MHz, CDCl3, δ): 8.52 (m, 2H), 8.23 (s, 1H), 7.72 (s, 4H), 7.40 (dd, J=1.59, 7.50 Hz, 1H), 3.96 (s, 3H).

reactant | methyl isonicotinate | 4.23 mmol, 500 μL, 1.0 equiv. | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 5.02 mmol, 1 g, 1.2 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
reactant | 4-ethynyl-α,α,α-trifluorotoluene | 5.29 mmol, 863 μL, 1.25 equiv. | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
reactant | potassium carbonate | 6.35 mmol, 877 mg, 1.5 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 3-(4-(trifluoromethyl)phenyl)pyrazolo[1,5-a]pyridine-5-carboxylate | 25% yield | FC(C1=CC=C(C=C1)C=1C=NN2C1C=C(C=C2)C(=O)OC)(F)F | C16H11F3N2O2
